US05416211
To 1.69 g (13.4 mmol) of 2,4-diamino-6-hydroxypyrimidine, 2.20 g (26.8 mmol) of sodium acetate and 20 ml of water at 80° C. were added 3.82 g (13.4 mmol) of 2-bromo-4-(4-carbomethoxyphenyl)butanal, prepared in Preparation 2, in 7 ml of methanol over 5 minutes. The mixture was maintained at 80° C. for 5 minutes, cooled to room temperature and stirred for 30 minutes. The mixture was filtered, washed with water, and dried for 18 hours at 50° C. @ 10 torr to provide 3.32 g of 4-(2-[2-amino-4-oxo-3,7-dihydropyrrolo[2,3-d]pyrimidin-5-yl]ethyl)benzoic acid methyl ester (m.p. >220° C.) in a yield of 79.4 percent. The remaining filtrate was cooled to 5° C. and filtered to provide an additional 0.069 g of the above product, for a combined yield of 81 percent. 1H NMR (DMSO-d6) δ2.80 (m, 2H), 2.93 (m, 2H), 3.78 (s, 3H), 5.97 (s, 2H), 6.26 (d, J=2.0 Hz, 1H), 7.28 (d, J=8.2 Hz, 2H), 7.80 (d, J=8.2 Hz, 2H), 10.12 (s, 1H), 10.58 (s, 1H); FDMS 312 (M+), Anal. for C16H16N4O3, Calcd: C, 61.53; H, 5.16; N, 17.94; Found: C, 61.79; H, 5.33; N, 17.66.

reactant | 2,4-diamino-6-hydroxypyrimidine | 13.4 mmol, 1.69 g | NC1=NC(=CC(=N1)N)O | C4H6N4O
reactant | sodium acetate | 26.8 mmol, 2.20 g | C(C)(=O)[O-].[Na+]
reactant | water | 20 ml | O | H2O
reactant | 2-bromo-4-(4-carbomethoxyphenyl)butanal | 13.4 mmol, 3.82 g | BrC(C=O)CCC1=CC=C(C=C1)C(=O)OC | C12H13BrO3
solvent | methanol | 7 ml | CO | CH4O
product | 4-(2-[2-amino-4-oxo-3,7-dihydropyrrolo[2,3-d]pyrimidin-5-yl]ethyl)benzoic acid methyl ester | 3.32 g, yield of 79.4 percent | COC(C1=CC=C(C=C1)CCC1=CNC=2N=C(NC(C21)=O)N)=O | C16H16N4O3
